US04559334
To a solution of potassium 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.0 g) in N,N-dimethylacetamide (30 ml) was added 4-bromomethyl-5-methyl-1,3-dioxol-2-one (1.0 g) under ice-cooling with stirring. The reaction mixture was stirred at the same temperature for 30 minutes. The resulting mixture was poured into ethyl acetate (200 ml) and the organic solution was washed with water three times. The separated organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (50 g) to give (5-methyl-2-oxo-1,3-dioxol-4-yl)methyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (0.62 g).

reactant | potassium 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)[O-])C1=O)=NO.[K+]
reactant | 4-bromomethyl-5-methyl-1,3-dioxol-2-one | 1.0 g | BrCC=1OC(OC1C)=O | C5H5BrO3
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
product | (5-methyl-2-oxo-1,3-dioxol-4-yl)methyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 0.62 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OCC=2OC(OC2C)=O)C1=O)=NO | C19H17N5O8S2
